US05925767
3. Ethyl 8-methyl-2,3-dihydrobenz-1,4-oxathiine-7-carboxylate
1.0 g (3.4 mmol) of ethyl 3-(2-methylsulfonylthioethoxy)-2-methylbenzoate are dissolved in 5 ml of nitromethane. 0.42 g (3.14 mmol) of aluminum trichloride is added. The mixture is stirred for 45 minutes at room temperature. Working-up is carried out by adding 10 ml of 2 N hydrochloric acid and subsequent extraction using MTB ether. The combined organic phases are washed with water and sodium carbonate solution, and dried over sodium sulfate, and the solvent is distilled off.

reactant | ethyl 3-(2-methylsulfonylthioethoxy)-2-methylbenzoate | 3.4 mmol, 1.0 g | CS(=O)(=O)SCCOC=1C(=C(C(=O)OCC)C=CC1)C | C13H18O5S2
reactant | aluminum trichloride | 3.14 mmol, 0.42 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
product | Ethyl 8-methyl-2,3-dihydrobenz-1,4-oxathiine-7-carboxylate | CC1=C(C=CC=2SCCOC21)C(=O)OCC | C12H14O3S
